US07118787B2
2-Bromo-9,9-dioctyl-7-octyloxyfluorene:
A mixture of 2-bromo-9,9-dioctyl-7-hydroxyfluorene (6.00 g, 0.0124 mol), 1-bromooctane (3.104 g, 0.0161 mol), potassium carbonate (3.41 g, 0.0247 mol) and butanone (100 cm3) was heated under reflux overnight. The cooled mixture was filtered and evaporated down under reduced pressure. The crude product was purified by column chromatography [silica gel, dichloromethane: hexane: 1:1] and then used without further purification (yield 5.04 g, 68.3%), GC: 99%.

reactant | 2-bromo-9,9-dioctyl-7-hydroxyfluorene | 0.0124 mol, 6.00 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)(CCCCCCCC)CCCCCCCC | C29H41BrO
reactant | 1-bromooctane | 0.0161 mol, 3.104 g | BrCCCCCCCC | C8H17Br
reactant | potassium carbonate | 0.0247 mol, 3.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 100 cm3 | CC(CC)=O | C4H8O
product | 2-Bromo-9,9-dioctyl-7-octyloxyfluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCCCCCCC)(CCCCCCCC)CCCCCCCC | C37H57BrO
